### PR TITLE
[Merged by Bors] - feat: Cartan's formula of Value Distribution Theory

### PR DESCRIPTION
**Pull request by kebekus**
Prove Cartan's formula, which expresses the characteristic function of a meromorphic function `f` at `⊤` as a circle average of the logarithmic counting function. As an application, establish that the characteristic function is monotone on `(0, ∞)`.

Disclaimer: Claude Code was used in the preparation of this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean [hunk 1]
```diff
@@ -136,4 +131,95 @@ theorem circleAverage_log_norm_meromorphicTrailingCoeffAt_of_meromorphicOrderAt_
...
+  let H1 := fun a ↦ circleAverage (log ‖f · - a‖) 0 R + logCounting f ⊤ R
+  let H2 := fun a ↦ log ‖meromorphicTrailingCoeffAt (f · - a) 0‖
+  have : (fun a : ℂ ↦ logCounting f a R) = H1 - H2 := by
+    ext a
+    simpa [Pi.sub_apply, H1, H2] using eq_sub_of_add_eq
+      (logCounting_add_log_trailingCoeff_eq_circleAverage_add_logCounting_top h hR a)
+  rw [this]
+  exact CircleIntegrable.sub ((circleIntegrable_circleAverage_log_norm_sub h).add
+      (circleIntegrable_const (logCounting f ⊤ R) 0 1))
+    circleIntegrable_log_meromorphicTrailingCoeffAt
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean]: `convert` is handy when you want to provide exactly the term you need, modulo showing the equality of a few subexpressions.
```suggestion
  convert circleIntegrable_circleAverage_log_norm_sub h |>.add
    (circleIntegrable_const (logCounting f ⊤ R) 0 1) |>.sub
    circleIntegrable_log_meromorphicTrailingCoeffAt
  simpa using eq_sub_of_add_eq
    (logCounting_add_log_trailingCoeff_eq_circleAverage_add_logCounting_top h hR _)
```

File: Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean [hunk 2]
```diff
@@ -136,4 +131,95 @@ theorem circleAverage_log_norm_meromorphicTrailingCoeffAt_of_meromorphicOrderAt_
...
+logarithm of the first nonzero Laurent coefficient of `f - a` at the origin.
+
+See `circleIntegrable_logCounting` and `circleIntegrable_log_trailingCoeff_of_meromorphic` for the
+facts that the summands are actually circle integrable.
+-/
+theorem characteristic_top_eq_circleAverage_add_circleAverage (h : Meromorphic f) (hR : R ≠ 0) :
+    characteristic f ⊤ R = circleAverage (logCounting f · R) 0 1
+      + circleAverage (fun a ↦ log ‖meromorphicTrailingCoeffAt (f · - a) 0‖) 0 1 := by
+  calc characteristic f ⊤ R
+    _ = circleAverage (fun a ↦ circleAverage (log ‖f · - a‖) 0 R + logCounting f ⊤ R) 0 1 := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean]: style nit
```suggestion
      + circleAverage (fun a ↦ log ‖meromorphicTrailingCoeffAt (f · - a) 0‖) 0 1 := calc
  characteristic f ⊤ R
      = circleAverage (fun a ↦ circleAverage (log ‖f · - a‖) 0 R + logCounting f ⊤ R) 0 1 := by
```

File: Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean [hunk 3]
```diff
@@ -136,4 +131,95 @@ theorem circleAverage_log_norm_meromorphicTrailingCoeffAt_of_meromorphicOrderAt_
...
+      simp only [characteristic, proximity, ↓reduceDIte, Pi.add_apply]
+      rw [← proximity_top, ← circleAverage_circleAverage_eq_proximity_top h,
+        circleAverage_fun_add (circleIntegrable_circleAverage_log_norm_sub h)
+          (circleIntegrable_const (logCounting f ⊤ R) 0 1), circleAverage_const]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean:177]: Do you think `CircleIntegrable` should be marked `fun_prop`? Note that `Integrable` now is, and there is some special tooling to support it. I'm not saying it should happen in this PR (it shouldn't), but I brought it up because it seemed like both the arguments to `circleAverage_fun_add` could have been proved `by fun_prop` if so.

File: Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean [hunk 4]
```diff
@@ -136,4 +131,95 @@ theorem circleAverage_log_norm_meromorphicTrailingCoeffAt_of_meromorphicOrderAt_
...
+    characteristic f ⊤ R = circleAverage (logCounting f · R) 0 1 := by
+  rw [characteristic_top_eq_circleAverage_add_circleAverage h₁f hR]
+  simp [circleAverage_log_norm_meromorphicTrailingCoeffAt_of_meromorphicOrderAt_pos h₂f]
+
+/--
+Qualitative version of **Cartan's formula**: Away from `0`, the difference between
+`characteristic f ⊤` and `circleAverage (logCounting f · ·) 0 1` is constant.
+-/
+theorem characteristic_top_eq_circleAverage_add_const (h : Meromorphic f) :
+    ∃ const, ∀ R ≠ 0, characteristic f ⊤ R = circleAverage (logCounting f · R) 0 1 + const :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean:201]: It's a bit weird to have this because you can say what the constant is explicitly. However, I gather that the specific value doesn't really matter in practice, and so it is likely easier to have a version where the constant is doesn't syntactically depend on `f`. If this is the case, please say so in the docstring.

File: Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean [hunk 5]
```diff
@@ -136,4 +131,95 @@ theorem circleAverage_log_norm_meromorphicTrailingCoeffAt_of_meromorphicOrderAt_
...
+The characteristic function is monotone on `(0, ∞)`. This result is surprisingly non-trivial, given
+that the proximity function is not monotone in general.
+-/
+theorem characteristic_monotoneOn (h : Meromorphic f) :
+    MonotoneOn (characteristic f ⊤) (Set.Ioi 0) := by
+  intro a ha b hb hab
+  rw [characteristic_top_eq_circleAverage_add_circleAverage h ha.ne',
+    characteristic_top_eq_circleAverage_add_circleAverage h hb.ne']
+  gcongr
+  <;> try exact circleIntegrable_logCounting h
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean]: style nit, although I'm not sure it's specified in the guidelines, so this may be my personal preference. You can omit it if you want.
```suggestion
  gcongr <;> try exact circleIntegrable_logCounting h
```

**Review by j-loreaux — COMMENTED** [review]
Looks pretty nice, thanks!

bors d+

File: Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean:177]: Agreed, `CircleIntegrable` should be `fun_prop`. I will do that in a follow-up PR.

File: Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/Cartan.lean:201]: Docstring updated as suggested.

**Comment by kebekus** [comment]
@j-loreaux Thank you!

bors r+
